Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache and neck stiffness
 
Major Surgical or Invasive Procedure:
None. 
 
History of Present Illness:
24 RHW with PMH of CIDP followed by Dr. ___ Dr. ___ 
was refd to the ED for evaluation of HA.

She started symptoms of CIDP in ___ when she had distal 
weakness of ___ UE followed by ___. She denies any predominant 
sensory symptoms. She was evaluated and was on IVIG which she 
completed a 13 month course of. She was on steroids and was seen 
by Dr. ___ at ___. She is off steroids now for last ___ years 
and apparently was doing well without any symptoms when she 
noted progressive
weakness in both distal ___ for last 2 months. She has to wear 
braces to walk since last few weeks.

She was started on IVIG and recieved first infusion on ___, 2 
days ago. She noted mild HA the next day, which was more 
pronounced in the evening. The HA is severe dull and both 
frontal and occipital. It is constant and there are no 
aggravating/relieving factors. She tried NSAIDs without relief. 
She has neck
pain too. No fevers/ visual symptoms/ focal neuro symptoms. No 
drowsniess/ seizures.

She called Neuro office and was advised ED evaluation for 
possible aseptic meningitis. Next, Neurology was called. 

Neurologic ROS was negative for,visual symptoms/ memory problems 
dysarthria, dysphagia, lightheadedness, vertigo, or hearing 
difficulty. Denied difficulties producing or comprehending 
speech.  
 
On general review of systems, the patient denied recent fever or 
chills. No sick contacts. No rash.

 
Past Medical History:
-CIDP followed by Drs. ___ and ___
-Depression
-S/p left knee surgeries x3 for fractured left patella
 
Social History:
___
Family History:
- Positive for  Behcets in maternal aunt, RA in Grandmother

 
Physical ___:
General: Awake, cooperative, NAD.
Head and Neck: no cranial abnormalities, no scleral icterus
noted, mmm, no lesions noted in oropharynx 
Neck:  no carotid bruits appreciated. mild nuchal rigidity 
___: RRR
RS : No crackles
Abd : Soft, NT, ND
Ext : no edema/ cyanosis
 
Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive.  Language is fluent with intact
repetition and comprehension.  Normal prosody.  There were no
paraphasic errors.  Pt. was able to name both high and low
frequency objects.  Able to read without difficulty.  Speech was
not dysarthric. There was no evidence of apraxia or neglect,
calculations intact. Registered ___.
 
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 4 to 2mm and brisk.  Visual fields full on bedside
testing. Fundus normal. 
III, IV, VI: . EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch, pain 
VII:  facial musculature symmetric
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and sternocleidomastoid 
bilaterally.

XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No rigidity. No adventitious movements noted. 
 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  3    4     3    4 
R  5    ___   ___  5   5    5  3    4     3    4 

-Sensory: Intact

-Deep tendon reflexes: absent.

-Plantars: downgoing

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 

-Gait: Defd

-Neck signs : has neck stiffness , pain and tightness on flexing
the neck.

 
Pertinent Results:
___ 04:00PM CEREBROSPINAL FLUID (CSF)  PROTEIN-107* 
GLUCOSE-55
___ 04:00PM CEREBROSPINAL FLUID (CSF)  WBC-255 RBC-10* 
POLYS-39 ___ ___ 04:00PM CEREBROSPINAL FLUID (CSF)  WBC-213 RBC-15* 
POLYS-47 ___ ___ 11:00AM URINE  UCG-NEGATIVE
___ 11:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 11:00AM   WBC-4.8 RBC-4.87 HGB-15.1 HCT-43.0 MCV-88 
MCH-31.1 MCHC-35.2* RDW-12.5
___ 11:00AM   NEUTS-55.8 ___ MONOS-6.4 EOS-0.6 
BASOS-0.5
___ 11:00AM   PLT COUNT-224
___ 11:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
A ___ yo RHW with a history of CIDP with recent exacerbation who 
received the 1st dose of a new course of IVIG therapy 2 days 
prior to admission. She presented with one day of dull, 
throbbing headache and neck stiffness. Her neurological exam was 
consistent with her previous outpatient examinations. 

The remainder of her physical exam and neurological exam were 
unremarkable. By the next morning, her meningismus resolved. 
Head CT with and without contrast was negative for venous sinus 
thrombosis and other acute intracranial processes (there was a 
concern for VST with IVIG or OCP therapy).  Her labs were 
notable for a normal serum WBC, negative serum/urine tox screen, 
normal UA. CSF analysis was consistent with meningitis, which 
was thought to be most likely aseptic due the fact that she had 
just received IVIG the previous day.  In addition, her CSF 
profile did not seem consistent with a bacterial meningitis. 
However, though she had no preceding prodrome to indicate a 
viral etiology, her CSF profile could have been consistent with 
a viral meninigitis.  As such, HSV-PCR was sent in addition to 
RPR, VDRL, Lyme titers, cryptococcal antigen, and serum/CSF ACE. 
She was on acyclovir during her hospitalization until her 
HSV-PCR came back negative.  

The patient was discharged home with follow up with Drs. ___ 
___. The following lab results were pending at discharge: 

1. RPR, VDRL
2. Lyme titers 
3. Cryptococcal antigen 
4. Serum/CSF ACE

 
Medications on Admission:
- Oral contraceptive pills
- Cymbalta 60
- IVIG , first dose 2 days ago after a long time

 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for pain fever.
Disp:*10 Tablet(s)* Refills:*0*
2. Cymbalta 60 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aseptic meningitis secondary to IVIG therapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. 

Neuro exam: Normal mental status. Bilateral foot drop. Decreased 
vibratory sensation in great toes. Otherwise, normal exam. 

 
Discharge Instructions:
You were admitted after experiencing headache and neck 
stiffness, which began the day after the 1st dose of a new 
course of IVIg. Your physical exam, lumbar puncture results, and 
negative imaging findings were consistent with aseptic 
meningitis, which was likely due to your IVIg therapy. You 
received acyclovir while hospitalized for the possibility that 
you had Herpes Simplex Virus (HSV) meningitis. Your HSV PCR is 
negative. Your headache and neck stiffness resolved with pain 
treatment and rest. Please contact Dr. ___ in one week to 
report how you do. 
 
Followup Instructions:
___